US05359073
Step (a): Preparation of 4-formyl-3-methylbenzoic acid N-cyclohexyl-N-cyclopentyl amide
To a cold (-70° C.), stirred solution of 4-bromo-3-methylbenzoic acid N-cyclohexyl-N-cyclopentyl amide (4 g, 0.011 mol) in THF (40 mL) was added t-butyl lithium (13 mL of 1.7 M solution) via syringe over 10 min. The originally colorless solution became a dark red. Dimethylformamide (DMF) (884 mg) was added. The cold bath was removed and the reaction allowed to warm to 0° , during the course of which, the reaction became much lighter in color. The reaction was diluted with ethyl acetate, washed with 0.5 N KHSO4 and the organic layer was dried (Na2SO4). The drying agent was filtered, the filtrate concentrated in vacuo and the crude product purified by chromatography on silica gel using mixtures of ethyl acetate and hexane as eluents to give title compound of Step(a), m.p. 57°-59° C. Anal. Calcd for C20H27NO2 : C, 76.64; H, 8.68; N, 4.47. Found: C, 76.21; H, 8.71; N, 4.11.

reactant | 4-bromo-3-methylbenzoic acid N-cyclohexyl-N-cyclopentyl amide | 0.011 mol, 4 g | C1(CCCCC1)N(C(C1=CC(=C(C=C1)Br)C)=O)C1CCCC1 | C19H26BrNO
reactant | t-butyl lithium | 1.7 M, 13 mL | C(C)(C)(C)[Li]
reactant | Dimethylformamide | 884 mg | CN(C=O)C | C3H7NO
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 4-formyl-3-methylbenzoic acid N-cyclohexyl-N-cyclopentyl amide | C1(CCCCC1)N(C(C1=CC(=C(C=C1)C=O)C)=O)C1CCCC1 | C20H27NO2
